US06204264B1
(2) N1-[3-(Dimethylamino)propyl]-4-methyl-1,2-benzenediamine
10% of palladium-carbon (0.48 g) was added to a solution containing N1,N1-dimethyl-N3-(4-methyl-2-nitrophenyl)-1,3-propanediamine (2.37 g) in ethanol (20 ml) and the mixture was stirred for 4 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated, thereby yielding the entitled compound (2.054 g) as dark green solid.

reactant | N1,N1-dimethyl-N3-(4-methyl-2-nitrophenyl)-1,3-propanediamine | 2.37 g | CN(CCCNC1=C(C=C(C=C1)C)[N+](=O)[O-])C | C12H19N3O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.48 g | [C].[Pd]
product | N1-[3-(Dimethylamino)propyl]-4-methyl-1,2-benzenediamine | 2.054 g | CN(CCCNC=1C(=CC(=CC1)C)N)C | C12H21N3
